US05929082
2-Bromopyridine-N-oxide (28.36 g) was carefully dissolved in concentrated sulphuric acid (43 ml) with stirring. A mixture of concentrated sulphuric acid (65 ml) and concentrated nitric acid (43 ml) was added dropwise, and the mixture refluxed for 3 hours and allowed to cool to room temperature. The mixture was then poured on to ice and the precipitate removed by filtration , washed with water and air dried leaving a fine yellow powder of 2-Bromo-4-nitro-pyridine-N-oxide (14.08 g, 63%), m.p. 145-147° C.

reactant | 2-Bromopyridine-N-oxide | 28.36 g | BrC1=[N+](C=CC=C1)[O-] | C5H4BrNO
reactant | nitric acid | 43 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 43 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 65 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Bromo-4-nitro-pyridine-N-oxide | 14.08 g, 63% | BrC1=[N+](C=CC(=C1)[N+](=O)[O-])[O-] | C5H3BrN2O3
